US08686022B2
1-isobutyl-4-methoxy-benzene
1.9 g 1-(4-methoxy-phenyl)-2-methyl-propan-1-ol are dissolved in 30 ml dissolved, cooled to 0° C. and mixed with 3.37 ml triethylsilane. The mixture is stirred for 10 minutes and then 1.62 ml trifluoroacetic acid are added. Within 1 hour the mixture is heated to 10° C., then the reaction is stopped by the addition of water and the phases are separated. The organic phase is washed with saturated aqueous sodium hydrogen carbonate solution and saturated aqueous sodium chloride solution and then dried on magnesium sulphate. The solvents are eliminated in vacuo and the residue is chromatographed on silica gel (cyclohexane/ethyl acetate 95:5 to 80:20).

reactant | 1-(4-methoxy-phenyl)-2-methyl-propan-1-ol | 1.9 g | COC1=CC=C(C=C1)C(C(C)C)O | C11H16O2
reactant | triethylsilane | 3.37 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 1.62 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | O | H2O
product | 1-isobutyl-4-methoxy-benzene | C(C(C)C)C1=CC=C(C=C1)OC | C11H16O
